US09056874B2
(±)-2-(5-Hydroxy-6,8-dimethyl-1-tosyl-1,3,4,5-tetrahydrobenzo[cd]indol-5-yl)-1H-benzo[d]imidazole-5-carbonitrile
To a mixture of (±)-2-(5-hydroxy-6,8-dimethyl-1-tosyl-1,3,4,5-tetrahydrobenzo[cd]indol-5-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile and (±)-2-(5-hydroxy-6,8-dimethyl-1-tosyl-1,3,4,5-tetrahydrobenzo[cd]indol-5-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile (50 mg, 0.08 mmol), lithium tetrafluoroborate (1.5 mL, 1.5 mmol) and H2O (0.15 mL) were added. The reaction was heated to 70° C. overnight. It was quenched with a sat. NaHCO3 solution. The layers were separated and the aqueous layer was extracted with EtOAc. It was purified using FCC eluting with heptane:EtOAc 1:2 to give the title compound. MS (ESI+) m/z 497.4 (M+H).

reactant | (±)-2-(5-hydroxy-6,8-dimethyl-1-tosyl-1,3,4,5-tetrahydrobenzo[cd]indol-5-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-6-carbonitrile | OC1(CCC2=CN(C=3C(=CC(=C1C23)C)C)S(=O)(=O)C2=CC=C(C)C=C2)C2=NC3=C(N2COCC[Si](C)(C)C)C=C(C=C3)C#N | C34H38N4O4SSi
reactant | (±)-2-(5-hydroxy-6,8-dimethyl-1-tosyl-1,3,4,5-tetrahydrobenzo[cd]indol-5-yl)-1-((2-(trimethylsilyl)ethoxy)methyl)-1H-benzo[d]imidazole-5-carbonitrile | 0.08 mmol, 50 mg | OC1(CCC2=CN(C=3C(=CC(=C1C23)C)C)S(=O)(=O)C2=CC=C(C)C=C2)C2=NC3=C(N2COCC[Si](C)(C)C)C=CC(=C3)C#N | C34H38N4O4SSi
reactant | lithium tetrafluoroborate | 1.5 mmol, 1.5 mL | F[B-](F)(F)F.[Li+]
solvent | H2O | 0.15 mL | O | H2O
product | (±)-2-(5-Hydroxy-6,8-dimethyl-1-tosyl-1,3,4,5-tetrahydrobenzo[cd]indol-5-yl)-1H-benzo[d]imidazole-5-carbonitrile | OC1(CCC2=CN(C=3C(=CC(=C1C23)C)C)S(=O)(=O)C2=CC=C(C)C=C2)C2=NC3=C(N2)C=CC(=C3)C#N | C28H24N4O3S
